US08476434B2
4-(2-Chloropyridin-3-yl)-N-methylpyrimidin-2-amine (3.30 g, 15.0 mmol), 4-iodophenol (3.96 g, 18.0 mmol), cesium carbonate (10.6 g, 30.0 mmol), and 15 mL of DMSO were added into a 50-mL round bottom flask. The flask was sealed with a septum and placed in a preheated oil bath at 130° C. After 3 h, the reaction was completed according to TLC and LC-MS analysis. The reaction was cooled to room temperature. Water was added into the reaction mixture until all product precipitated out of the solution. The solid was filtered, ground, and washed with water. The product was collected and dried in a vacuum oven overnight. The product, 4-(2-(4-iodophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine was obtained as a light brown solid. 1H NMR (Varian, 300 MHz, CDCl3): 8.40 (br s, 1H), 8.34 (d, J=4.1 Hz, 1H), 8.19 (dd, J=4.8, 2.2 Hz, 1H), 7.73 (m, 2H), 7.30 (dd, J=7.4, 4.8 Hz, 1H), 7.19 (m, 2H), 7.00 (m, 2H), 2.84 (d, J=4.8 Hz, 3H).

reactant | 4-(2-Chloropyridin-3-yl)-N-methylpyrimidin-2-amine | 15.0 mmol, 3.30 g | ClC1=NC=CC=C1C1=NC(=NC=C1)NC | C10H9ClN4
reactant | 4-iodophenol | 18.0 mmol, 3.96 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | cesium carbonate | 30.0 mmol, 10.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 4-(2-(4-iodophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | IC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1 | C16H13IN4O
